US07777047B2
N-methyl-N-(2-{5-[2-(3-oxomorpholino)ethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide
To a solution of N-[2-(5-{2-[(2-hydroxyethyl)amino]ethyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide (220 mg) in ethanol (2 mL) and water (1 mL) were added chloroacetyl chloride (95 μL) and 8M aqueous sodium hydroxide solution (310 μL), and the mixture was stirred at the inside temperature of 20° C. or less for 3 hr. 1M Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium hydrogencarbonate and saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (100 mg, yield 41%) as a colorless amorphous solid from a fraction eluted with ethyl acetate-methanol (10:1, volume ratio).

reactant | N-[2-(5-{2-[(2-hydroxyethyl)amino]ethyl}-4,5-dihydro-1,3-thiazol-2-yl)-1H-indol-7-yl]-N-methylthiophene-2-sulfonamide | 220 mg | OCCNCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C20H24N4O3S3
reactant | chloroacetyl chloride | 95 μL | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 8M, 310 μL | [OH-].[Na+]
reactant | Hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
product | N-methyl-N-(2-{5-[2-(3-oxomorpholino)ethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide | 100 mg, yield 41% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CCN1C(COCC1)=O | C22H24N4O4S3
